US03957489
4-Diethylamino-2-trifluoromethylbenzenediazonium hexafluoroarsenate was prepared by reacting 4-diethylamino-2-trifluoromethylbenzenediazonium chloride with hexafluoroarsenic acid. Yield 99%; Properties after recrystallization from methanol m. 116°-117° (dec.); N found 9.46%, 9.61%, N calculated 9.7%; molar absorptivity at 385 mμ was 36,000.

reactant | 4-diethylamino-2-trifluoromethylbenzenediazonium chloride | [Cl-].C(C)N(C1=CC(=C(C=C1)[N+]#N)C(F)(F)F)CC
reactant | hexafluoroarsenic acid | F[As-](F)(F)(F)(F)F.[H+]
product | 4-Diethylamino-2-trifluoromethylbenzenediazonium hexafluoroarsenate | Yield 99% | F[As-](F)(F)(F)(F)F.C(C)N(C1=CC(=C(C=C1)[N+]#N)C(F)(F)F)CC | InChI=1S/C11H13F3N3.AsF6/c1-3-17(4-2)8-5-6-10(16-15)9(7-8)11(12,13)14;2-1(3,4,5,6)7/h5-7H,3-4H2,1-2H3;/q+1;-1
